Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]=[C:3][C:4]([H:5])[C:6][O:7][H:8]>>[C:2]#[C:3][C:4]([H:5])[C:6][O:7][H:8].[O:1],7.234039140599999
[C:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13].[O:1]>>[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13],-4.06483831653
[C:3]#[C:4][H:5].[H:1][C:2][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-6.95108430726
[C:10]=[O:11].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][H:9]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[O:11],-3.77459852122
[H:12].[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[O:11]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.64114104549
[H:1]/[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])[H:8])=[C:9](/[H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]1[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@:9]1([H:10])[O:11][C:12]([H:13])([H:14])[H:15],0.0353914554098
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1],5.91741840693
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:10]([H:11])[H:12].[H:9],1.76951328599
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15],1.98772859051
[H:7].[O:1]=[C:2]([H:3])[C:4][O:5][C:6]#[C:8][H:9]>>[O:1]=[C:2]([H:3])[C:4][O:5][C:6]([H:7])=[C:8][H:9],-2.62439404372
[O:1]=[C:2]([H:3])[C:4]([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:5].[O:1]=[C:2]([H:3])[C:4][C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],4.92902497514
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:13]([H:14])[H:15],1.5853695290399998
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.85696467969
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C@@:6]([H:7])([C:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.0922595869
[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]>>[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-3.25151843527
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([O:3]/[C:4]([H:5])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:6],1.6868865427200002
[C:1]/[C:2]([H:3])=[C:4](\[H:5])[O:6][C:7]#[C:8]>>[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7].[C:8],5.84526448345
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]#[C:3][C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14].[H:4],1.95395652038
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8][O:9][H:10]>>[C:8][O:9][H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7],4.35587463782
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7][H:8].[H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9],-4.36642405651
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])[O:10][H:11].[H:9],3.91898761823
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:6],2.9500662062700003
[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.26654687413
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:8][C:9]([H:10])([H:11])[H:12].[H:7]>>[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],-1.86983757718
[C:3]([H:4])([H:5])[O:6][H:7].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][H:7],-4.864834137240001
[C:4]([H:5])([H:6])[H:7].[H:1][C:2](=[O:3])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-0.586706607749
[H:1][C:2]1[O:3][C:4]([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[O:12]1>>[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])=[O:12],-0.17748339352
[C:4]([H:5])([H:6])=[C:7][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-2.7266904494200004
[H:1][C:2]([H:3])=[C:4][C:12]([C:9]([C:5]=[C:6]([H:7])[H:8])([H:10])[H:11])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]1[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14],-3.63679631896
